US08133886B2
Step 10:3: 6-(2-Amino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide
To a suspension of 2.58 g (9.2 mMol) 6-(2-amino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid in 50 ml DMF, 12.8 ml (92 mMol) Et3N, 490 mg (4.0 mMol) DMAP, 1.41 ml (11 mMol) 4-fluoro-3-trifluoromethyl-aniline and finally 11 ml propylphosphonic anhydride (50% in DMF; 19 mMol) are added. The mixture is stirred for 1 h and then concentrated in vacuo. The residue is diluted with water and EtOAc, the aq. phase is separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Column chromatography (SiO2; CH2Cl2/EtOAc 2:1→1:1→1:2) and re-crystallization from CH3CN gives the title compound: m.p.: 205° C.

reactant | 6-(2-amino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid | 9.2 mMol, 2.58 g | NC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H11N3O3
reactant | Et3N | 92 mMol, 12.8 ml | CCN(CC)CC | C6H15N
reactant | 4-fluoro-3-trifluoromethyl-aniline | 11 mMol, 1.41 ml | FC1=C(C=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | propylphosphonic anhydride | 19 mMol, 11 ml | CCCP(=O)=O | C3H7O2P
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 4.0 mMol, 490 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 6-(2-Amino-pyrimidin-4-yloxy)-naphthalene-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC(=NC=C1)N)C(F)(F)F | C22H14F4N4O2
